US08912188B2
To a solution of methyl 2-fluoro-4-(4-methoxybenzylamino)-5-nitrobenzoate (50.0 g, 149.57 mmol) in methanol (1500 ml) was added palladium on carbon (15 g). The mixture was allowed to react for 2 hours at room temperature under an atmosphere of H2 (g). The solids were filtered out and the filtrate was concentrated in vacuo to afford methyl 5-amino-2-fluoro-4-(4-methoxybenzylamino)benzoate as a gray solid (30.0 g, 66%).

reactant | methyl 2-fluoro-4-(4-methoxybenzylamino)-5-nitrobenzoate | 149.57 mmol, 50.0 g | FC1=C(C(=O)OC)C=C(C(=C1)NCC1=CC=C(C=C1)OC)[N+](=O)[O-] | C16H15FN2O5
solvent | methanol | 1500 ml | CO | CH4O
catalyst | palladium on carbon | 15 g | [Pd] | Pd
product | methyl 5-amino-2-fluoro-4-(4-methoxybenzylamino)benzoate | 30.0 g, 66% | NC=1C(=CC(=C(C(=O)OC)C1)F)NCC1=CC=C(C=C1)OC | C16H17FN2O3
